US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid methylamide
The title compound was prepared from methylamine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: n.d.; HPLC Rf: 3.70 min.; HPLC purity: 89%.

reactant | methylamine | CN | CH5N
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid methylamide | CNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C9H7ClN2OS
